Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
right ankle pain
 
Major Surgical or Invasive Procedure:
external fixation of trimalleolar ankle fracture right

 
History of Present Illness:
___ F s/p fall on ___, seen at ___
and diagnosed with a R trimalleolar fracture dislocation. She 
was
reduced and splinted, admitted overnight and discharged on ___
with instructions to f/u in ___ clinic. She subsequently
developed fracture blisters on the medial side, one of which
ruptured today and continues to ooze. She returned to ___ today and was placed on Unasyn for open wound and
possible cellulitis.  She was then transferred to ___ for
further orthopaedic care.  Currently, she denies fever, chills,
numbness or weakness in the extremity.

 
Past Medical History:
PMH/PSH: Depression

SHx: ___
Family History:
noncontributory
 
Physical Exam:
Tmax 99.3, Tc 99.2, HR 84, BP 113/73, RR 18, SaO2 96% RA
General: well appearing in no apparent distress, alert and 
oriented to hospital, name and date.
CV: RRR
PULM: CTAB posteriorly
Wound: External fixator in place on distal lower extremity of 
right leg, overwrapped with ACE bandage. Pin sites are draining 
minimal serosang fluid. ___ 2+, SILT sural, saphenous, 
superficial peroneal, deep peroneal, and Tibial. Moving digits.
 
Pertinent Results:
___ 08:00AM BLOOD WBC-5.8 RBC-3.90 Hgb-10.7* Hct-34.1 
MCV-87 MCH-27.4 MCHC-31.4* RDW-13.1 RDWSD-41.0 Plt ___
___ 08:00AM BLOOD ___ PTT-26.0 ___
___ 11:57AM BLOOD Glucose-99 UreaN-9 Creat-0.6 Na-138 K-3.7 
Cl-103 HCO3-29 AnGap-10
___ 11:57AM BLOOD Calcium-8.7 Phos-4.9* Mg-2.0
 
Brief Hospital Course:
Hospitalization Summary (ED Admit)
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have an unstable trimalleolar ankle fracture with apparent 
fracture blisters of the overlying skin. She was admitted to the 
orthopedic surgery service. The patient was taken to the 
operating room on ___ for external fixation of her left ankle, 
which the patient tolerated well. For full details of the 
procedure please see the separately dictated operative report. 
The patient was taken from the OR to the PACU in stable 
condition and after satisfactory recovery from anesthesia was 
transferred to the floor. The patient was initially given IV 
fluids and IV pain medications, and progressed to a regular diet 
and oral medications by POD#1. The patient was given 
___ antibiotics and anticoagulation per routine. The 
patient's home medications were continued throughout this 
hospitalization. The patient worked with ___ who determined that 
discharge to acute rehab was appropriate. The ___ hospital 
course was otherwise unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
activity as tolerated but non weight bearing in the right lower 
extremity, and will be discharged on 4 weeks of 40 mg Lovenox 
daily for DVT prophylaxis. The patient will follow up with Dr. 
___ in 7 days per routine. A thorough discussion was had 
with the patient regarding the diagnosis and expected 
post-discharge course including reasons to call the office or 
return to the hospital, and all questions were answered. The 
patient was also given written instructions concerning 
precautionary instructions and the appropriate follow-up care. 
The patient expressed readiness for discharge.

 
Medications on Admission:
MEDS: Zoloft, Wellbutrin

 
Discharge Medications:
1. Enoxaparin Sodium 40 mg SC DAILY Duration: 4 Weeks 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 40 mg/0.4 mL 40 mg SC daily Disp #*28 Syringe 
Refills:*0
2. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*80 Tablet Refills:*0
3. Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tab by mouth every 12 hours Disp 
#*30 Tablet Refills:*0
4. Sertraline 50 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium 100 mg 1 tablet(s) by mouth every 12 hours 
Disp #*30 Tablet Refills:*0
6. BuPROPion 75 mg PO BID 
7. ALPRAZolam 0.5 mg PO Q4H:PRN anxiety 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
right trimalleolar ankle fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance and aid

 
Discharge Instructions:
Discharge Instructions:

INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.
-wrap your anterior tibia and lateral foot pin in xeroform and 
kerlix daily.

ACTIVITY AND WEIGHT BEARING:
No weightbearing of your right leg

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- apply silvadene to your fracture blisters daily
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take Lovenox 40mg daily for 4 weeks

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- No dressing is needed if wound continues to be non-draining.

Physical Therapy:
no weight bearing of right leg
Activity:   Activity:  Activity as tolerated
 Right lower extremity:  Non weight bearing
Encourage turn, cough and deep breathe q2h when awake

Treatments Frequency:
- silvadene to medial fracture blisters daily, until return to 
clinic on post operative day 7.
- pin care to anterior tibia and lateral calc pin daily starting 
___, this includes wrapping with xeroform and kerlix, taking 
care not to cause skin necrosis with undue pressure. No pin care 
medial calc pins. 

 
Followup Instructions:
___